US04616023
1 gram (44 millimoles) of 5-chloro-5H-dibenzo-[a,d]cycloheptene prepared in a manner similar to that previously described was added to a solution of 1.4 grams of ethyl N-piperazinecarboxylate in 10 milliliters of dimethylformamide and the resulting mixture allowed to stir overnight at room temperature. At the end of this period, the mixture was subjected to reduced pressure to remove most of the dimethylformamide. Aqueous saturated sodium bicarbonate solution was added, mixed and then extracted with diethyl ether. The ether extract was washed with water and saturated sodium chloride solution, dried over magnesium sulfate, the dried solution subjected to reduced pressure to remove the ether and to obtain the ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-piperazinecarboxylate product as residue. The crude product was treated with and crystallized from acetonitrile. The product after several recrystallizations had a melting point of 159°-160° C. and elemental analyses as follows:

reactant | 5-chloro-5H-dibenzo-[a,d]cycloheptene | 44 millimoles, 1 gram | ClC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H11Cl
reactant | ethyl N-piperazinecarboxylate | 1.4 grams | N1(CCNCC1)C(=O)OCC | C7H14N2O2
solvent | dimethylformamide | 10 milliliters | CN(C=O)C | C3H7NO
product | ethyl 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-piperazinecarboxylate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)N3CCN(CC3)C(=O)OCC | C22H24N2O2
